US07485637B2
4d: 4-(4-Trifluoromethyl-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester
To a solution of 0.97 mmol 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (CAS: 286961-14-6) in 6 ml dimethylformamide, 2.91 mmol potassium carbonate, 1.02 mmol p-bromobenzotrifluoride, and 0.06 mmol dichlor(1,1′ bis(diphenylphosphino)ferrocene) palladium(II)dichloromethane complex were successively added. The reaction was then stirred at 80° C. for 6 hours, concentrated in vacuo and purified by column chromatography (SiO2, 20 g, heptane), to give the title compound. MS (m/e): 271.1 (M-isobuthylene)

reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.97 mmol | C(C)(C)(C)OC(=O)N1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C16H28BNO4
reactant | potassium carbonate | 2.91 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | p-bromobenzotrifluoride | 1.02 mmol | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 4-(4-Trifluoromethyl-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC=C(C=C1)C(F)(F)F | C17H20F3NO2
